US09302989B2
2-(4-bromophenyl)-5-(1H-pyrrol-2-yl)-1,3,4-oxadiazole
To 1.2 g of N′-(4-bromobenzoyl)-1H-pyrrole-2-carbohydrazide (3.89 mmol) was added 5 ml phosphoryl trichloride (1.65 mmol). The reaction was stirred for 25 minutes at 120° C. The reaction was cooled to 0° C., and ice was added. The resulting solid was filtered, and washed with water, NH4OH, dichloromethane and ethyl acetate. Purification by silica gel chromatography (dichloromethane:methanol=9:1) resulted in the desired product. 1H NMR (400 MHz, DMSO-d6) δ 12.32 (s, 1H), 8.05-8.00 (m, 2H), 7.89-7.83 (m, 2H), 7.18 (td, J=1.5, 2.6, 1H), 6.97 (ddd, J=1.5, 2.4, 3.7, 1H), 6.33 (dt, J=2.4, 3.6, 1H). 13C NMR (400 MHz, DMSO-d6) δ 110.16, 112.49, 115.12, 122.71, 123.96, 125.23, 128.26, 132.49, 159.37, 161.57.

reactant | N′-(4-bromobenzoyl)-1H-pyrrole-2-carbohydrazide | 3.89 mmol, 1.2 g | BrC1=CC=C(C(=O)NNC(=O)C=2NC=CC2)C=C1 | C12H10BrN3O2
reactant | phosphoryl trichloride | 1.65 mmol, 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-(4-bromophenyl)-5-(1H-pyrrol-2-yl)-1,3,4-oxadiazole | BrC1=CC=C(C=C1)C=1OC(=NN1)C=1NC=CC1 | C12H8BrN3O
